US09108957B2
To a solution of (S)-4-(4-((R)-1-phenylethyl)-[1,4]oxazepan-6-yl)benzonitrile (0.662 g, 2.16 mmol) in 1,2-dichloroethane (3.60 ml) was added 1-chloroethyl chloroformate (0.772 g, 5.40 mmol) at room temperature. The mixture was refluxed for 8 hours. Methanol (15 ml) was added to the mixture cooled to room temperature. The mixture was refluxed again for 2 hours. The mixture was concentrated in vacuo. The residue was partitioned between aqueous sodium hydrogen carbonate and chloroform. The organic layer was dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (eluent: chloroform/methanol=96/4) to afford (S)-4-([1,4]oxazepan-6-yl)benzonitrile as pale yellow solid (312 mg, 70%).

reactant | (S)-4-(4-((R)-1-phenylethyl)-[1,4]oxazepan-6-yl)benzonitrile | 2.16 mmol, 0.662 g | C1(=CC=CC=C1)[C@@H](C)N1CCOC[C@H](C1)C1=CC=C(C#N)C=C1 | C20H22N2O
reactant | 1-chloroethyl chloroformate | 5.40 mmol, 0.772 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | Methanol | 15 ml | CO | CH4O
solvent | 1,2-dichloroethane | 3.60 ml | ClCCCl | C2H4Cl2
product | (S)-4-([1,4]oxazepan-6-yl)benzonitrile | 312 mg, 70% | O1CCNC[C@@H](C1)C1=CC=C(C#N)C=C1 | C12H14N2O
